US07504513B2
2-Benzoimidazol-1-yl-4-phenyl-thiazole-5-carboxylic acid amide was prepared from 2-Benzoimidazol-1-yl-4-phenyl-thiazole-5-carboxylic acid ethyl ester (75 mg, 0.21 mmol) and ammonium hydroxide as described above in the general amide formation procedure. Preparative HPLC with trifluoroacetic acid, 9.1 mg, 13% yield. MS M/z 321 (M+1).

reactant | 2-Benzoimidazol-1-yl-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.21 mmol, 75 mg | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=CC=C2)C2=CC=CC=C2 | C19H15N3O2S
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Benzoimidazol-1-yl-4-phenyl-thiazole-5-carboxylic acid amide | 13% yield | N1(C=NC2=C1C=CC=C2)C=2SC(=C(N2)C2=CC=CC=C2)C(=O)N | C17H12N4OS
